US08563575B2
A solution of N2-methylpyridine-2,3-diamine (7 g) and CDI (13.82 g) in THF (100 mL) was refluxed for 5 h. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-100% EtOAc in hexane) to give 3-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (7 g) as a light brown solid.

reactant | N2-methylpyridine-2,3-diamine | 7 g | CNC1=NC=CC=C1N | C6H9N3
reactant | CDI | 13.82 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 7 g | CN1C(NC=2C1=NC=CC2)=O | C7H7N3O
